data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc(OC)cc1_2-C1CCC1_3-C_4-C(C)(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc(OC)cc1)(C1CCC1)","C(C)(C(C)(C)C)O"],"products_smiles": ["OC(c1ccc(OC)cc1)(C1CCC1).C(C)(=O)C(C)(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C)(C(C)(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C(C)(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C)(C(C)(C)C)[O][Al-](OC(C)C)([O+]=C(c1ccc(OC)cc1)(C1CCC1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc(OC)cc1)(C1CCC1).C(C)(=O)C(C)(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-228_1-CC_2-c1ccc(C(F)(F)F)cc1_3-C1CCC1_4-C(C)(C)C_5-C(C)(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(CC)=C(c1ccc(C(F)(F)F)cc1)(C1CCC1)","C(C)(C)CC(=O)OC(C)(C)C"],"products_smiles": ["C(CC)1OC1(c1ccc(C(F)(F)F)cc1)C1CCC1"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(CC)1OC1(c1ccc(C(F)(F)F)cc1)C1CCC1","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NR-331_1-c1ccc(OC)cc1_2-C(C)C_3-C#CC_4-c1ccccc1_5-c1ccccc1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(C(C)C)(C#CC)C(=O)Oc1ccc(OC)cc1","O=C(c1ccccc1)c1ccccc1","[Zn]"],"products_smiles": ["C(C(O)(c1ccccc1)c1ccccc1)(C(C)C)(C#CC)C(=O)Oc1ccc(OC)cc1"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1ccc(OC)cc1OC(=O)C(C(C)C)(C#CC)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1ccccc1)c1ccccc1)(C(C)C)(C#CC)C(=O)Oc1ccc(OC)cc1.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1ccccc1)c1ccccc1)(C(C)C)(C#CC)C(=O)Oc1ccc(OC)cc1","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
